US07192968B2
4-(2-Hydroxyethyl)-5-hydroxymethylthiazole
A solution of methyl 2-bromo-5-methoxycarbonyl-thiazole-4-acetate (23.4 g) in tetrahydrofuran (500 ml) was added dropwise over 1 hour to a suspension of lithium aluminum hydride (9.03 g) in tetrahydrofuran (500 ml) under ice cooling. After stirring for additional 1 hour under ice cooling, water (9 ml), a 35% aqueous solution (9 ml) of sodium hydroxide and water (27 ml) were successively added, and the mixture was stirred at room temperature for 1 hour. After anhydrous magnesium sulfate was added to the reaction mixture, and the resultant mixture was stirred, insoluble matter was removed by filtration with Celite, and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (methanol:dichloromethane=7:93) to obtain the title compound (8.64 g) as a yellow oil.

reactant | methyl 2-bromo-5-methoxycarbonyl-thiazole-4-acetate | 23.4 g | BrC=1SC(=C(N1)CC(=O)OC)C(=O)OC | C8H8BrNO4S
reactant | lithium aluminum hydride | 9.03 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 27 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | 4-(2-Hydroxyethyl)-5-hydroxymethylthiazole | 8.64 g | OCCC=1N=CSC1CO | C6H9NO2S
